Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[O:9][C:10]([H:11])([H:12])[H:13]>>[C:6]([H:7])#[C:8][O:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])[H:5],1.48515585834
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][O:2][C:3]=[C:4]([H:5])[H:6],2.82015316847
[H:14].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[O:10][C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[O:10][C:11]([H:12])([H:13])[H:14],-4.9084794651
[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]=[C:10]([H:11])[H:12]>>[C:4]([H:5])=[C:6]([H:7])[O:8][C:9]=[C:10]([H:11])[H:12].[H:1][C:2][H:3],6.7985285201400005
[C:1][C:2]#[C:3][C:7]([H:8])([H:9])[H:10].[C:4](=[O:5])[H:6]>>[C:1]#[C:2][C:3]([C:4](=[O:5])[H:6])[C:7]([H:8])([H:9])[H:10],-3.25706244233
[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[C:6]([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4][H:5],5.806286131009999
[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])=[C:8][H:9]>>[C:6]([H:7])#[C:8][H:9].[H:1][C:2][O:3][C:4]#[C:5],2.9553558687400003
[H:1][C:2]#[C:3][C:4]([O:5][H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]#[C:3][C:4](=[O:5])[O:7][C:8]([H:9])([H:10])[H:11].[H:6],1.22593750073
[C:1].[C:2]#[C:3][H:4]>>[C:1][C:2]#[C:3][H:4],-6.16336114744
[O:1][O:2][C:3][C:8]([C:6](=[C:4][H:5])[H:7])([H:9])[H:10]>>[O:1][O:2][C:3]1=[C:4]([H:5])[C:6]([H:7])[C:8]1([H:9])[H:10],-3.93577294177
[C:1]#[C:2][C:3]([H:4])[C:5]#[C:6][H:7].[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][C:3]([H:4])[C:5](=[C:6][H:7])[C:8]([H:9])([H:10])[H:11],-1.75131195596
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[C:4]([H:5])([H:6])=[C:7]=[C:8]([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2][H:3],2.6072921702
[C:8]=[C:9]([H:10])[H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])[H:11],-6.80061033347
[O:1]=[C:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:5]([H:6])([H:7])[H:8].[O:1]=[C:2]=[C:3]([H:4])[C:9]([H:10])([H:11])[O:12][H:13],1.7551179048900003
[C:15]([H:16])([H:17])[H:18].[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.04290701051
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10],1.31395253345
[H:1].[O:2]=[C:3]([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-3.48422040266
[C:2](#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:1]>>[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[O:11][C:12]([H:13])([H:14])[H:15],-2.0594161925
[O:1][C:2](=[O:3])[H:4]>>[H:4].[O:1]=[C:2]=[O:3],-0.253344407383
[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([C:4]#[C:5][H:6])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:7],3.93983221111
[O:1]=[C:2]([H:3])[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:3].[O:1]=[C:2]=[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],2.8699175761
[C:1]=[C:2]([O:4][C:5]([H:6])=[C:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:3]>>[C:1][C@:2]([H:3])([O:4][C:5]([H:6])=[C:7][H:8])[C:9]([H:10])([H:11])[H:12],-2.0474494073800003
[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])=[C:10][H:11]>>[C:3]([H:4])=[C:5]([H:6])[O:7][C:8]([H:9])=[C:10][H:11].[H:1][C:2],6.407688267
[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16]>>[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16].[H:1][C:2][H:3],6.175942460580001
[C:6]#[C:7][H:8].[O:1]=[C:2]([H:3])[C:4]([H:5])[O:9][H:10]>>[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]#[C:7][H:8])[O:9][H:10],-4.53465422495
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])[H:15].[H:5],4.1888704825
[H:12].[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.30103738292
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:11].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],4.22210676218
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])[H:7]>>[C:5]([H:6])[H:7].[O:1][C:2]#[C:3][H:4],5.96242066854
